US06294555B1
Similar procedures as Example 60 are repeated except that 4-(t-butoxycarbonylamino)-1-(4-piperidinylmethyl)piperidine, and 3-methoxypropionic acid are used instead of 4-methoxybenzoic acid in Example 60 as described below to give 4-(t-butoxycarbonylamino)-1-[1-(3-methoxypropionyl)-4-piperidinylmethyl]piperidine.

reactant | 4-(t-butoxycarbonylamino)-1-(4-piperidinylmethyl)piperidine | C(C)(C)(C)OC(=O)NC1CCN(CC1)CC1CCNCC1 | C16H31N3O2
reactant | 3-methoxypropionic acid | COCCC(=O)O | C4H8O3
reactant | 4-methoxybenzoic acid | COC1=CC=C(C(=O)O)C=C1 | C8H8O3
product | 4-(t-butoxycarbonylamino)-1-[1-(3-methoxypropionyl)-4-piperidinylmethyl]piperidine | C(C)(C)(C)OC(=O)NC1CCN(CC1)CC1CCN(CC1)C(CCOC)=O | C20H37N3O4
